US07902229B2
2-[(2-Bromo-pyridin-4-ylmethyl)-amino]-N-(4-fluoro-2-methyl-2H-indazol-7-yl)-benzamide was prepared from 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester and 7-amino-4-fluoro-2-methyl-2H-indazole in analogy to the procedures detailed in Example 4A; 1H-NMR (300 MHz, d6-DMSO) 9.86 (1H, s), 8.60 (1H, s), 8.32 (1H, d), 8.13 (1H, t), 7.83 (1H, d), 7.58-7.61 (2H, m), 7.42 (1H, d), 7.30 (1H, t), 6.82 (1H, dd), 6.72 (1H, t), 6.59 (1H, d), 4.52 (2H, d), 4.22 (3H, s); m/z (ES+) 454, 456 [M+H, Br isotopes]+.

reactant | 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)Br)=O | C14H13BrN2O2
reactant | 7-amino-4-fluoro-2-methyl-2H-indazole | NC1=CC=C(C2=CN(N=C12)C)F | C8H8FN3
product | 2-[(2-Bromo-pyridin-4-ylmethyl)-amino]-N-(4-fluoro-2-methyl-2H-indazol-7-yl)-benzamide | BrC1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC=C(C3=CN(N=C23)C)F)C=CC=C1 | C21H17BrFN5O
